US07632832B2
Step D. tert-Butyl 4-[4-(aminocarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate
A solution of 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid (210 mg, 0.675 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (388 mg, 2.02 mmol), 1H-1,2,3-benzotriazol-1-ol hydrate (273 mg, 2.02 mmol), N,N-diisopropylethylamine (0.352 mL, 2.02 mmol), and ammonia (0.5 M, 2.02 mmol, 4.05 mL) were stirred at room temperature in dimethylformamide (10 mL). After 3 h, the reaction was worked up with dichloromethane and saturated sodium bicarbonate. The organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→15% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (78 mg). MS 255.2 (M+1-tert butyl)

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid | 0.675 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC(=C1)C(=O)O)=O | C14H21N3O5
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 2.02 mmol, 388 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | 2.02 mmol, 273 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | N,N-diisopropylethylamine | 2.02 mmol, 0.352 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonia | 2.02 mmol, 0.5 M, 4.05 mL | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 4-[4-(aminocarbonyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | 78 mg | NC(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N4O4
